US06329380B1
Step B: 1-Benzyloxycarbonyl-3-methanesulfonyloxymethylpiperidine
To a stirred solution of 1-benzyloxycarbonyl-3-hydroxymethyl-piperidine (1.29 g, 5.24 mmol, 1 eq) in CH2Cl2 (50 mL) at 0° C. was added diisopropylethylamine (2.7 mL, 15.72 mmol, 3 eq) followed by methanesulfonylchloride (0.61 mL, 7.86 mmol, 1.5 eq) via syringe. Let stir 10 minutes and removed the cooling bath. After 30 minutes the reaction was complete by thin layer chromatography analysis. Removed the CH2Cl2 under reduced pressure and used material crude in the next step.

reactant | 1-benzyloxycarbonyl-3-hydroxymethyl-piperidine | 5.24 mmol, 1.29 g, 1 eq | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CO | C14H19NO3
reactant | diisopropylethylamine | 15.72 mmol, 2.7 mL, 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonylchloride | 7.86 mmol, 0.61 mL, 1.5 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyloxycarbonyl-3-methanesulfonyloxymethylpiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)COS(=O)(=O)C | C15H21NO5S
